### PR TITLE
[Merged by Bors] - feat(ValMinAbs): add lemmas

### PR DESCRIPTION
**Pull request by yury-harmonic**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ZMod/ValMinAbs.lean [hunk 1]
```diff
@@ -88,17 +92,17 @@ lemma natAbs_valMinAbs_le [NeZero n] (x : ZMod n) : x.valMinAbs.natAbs ≤ n / 2
...
   | n + 1 => by simp only [valMinAbs_def_pos, if_true, Int.ofNat_zero, zero_le, val_zero]
 
 @[simp]
-lemma valMinAbs_eq_zero (x : ZMod n) : x.valMinAbs = 0 ↔ x = 0 := by
-  rcases n with - | n
-  · simp
-  rw [← valMinAbs_zero n.succ]
-  apply injective_valMinAbs.eq_iff
+lemma valMinAbs_eq_zero (x : ZMod n) : x.valMinAbs = 0 ↔ x = 0 :=
+  injective_valMinAbs.eq_iff' <| valMinAbs_zero _
```
Comment (pechersky) [inline Mathlib/Data/ZMod/ValMinAbs.lean:105]: Is the analogous case for `x = 1` also true? If so, could you add the `valMinAbs_one` and `eq_one` lemmas please?

File: Mathlib/Data/ZMod/ValMinAbs.lean [hunk 2]
```diff
@@ -127,6 +131,20 @@ lemma natAbs_valMinAbs_neg (a : ZMod n) : (-a).valMinAbs.natAbs = a.valMinAbs.na
...
+    a.valMinAbs.natAbs = b.valMinAbs.natAbs ↔ a = b ∨ a = -b := by
+  constructor
+  · rw [Int.natAbs_eq_natAbs_iff, valMinAbs_inj]
+    exact Or.imp_right eq_neg_of_valMinAbs_eq_neg_valMinAbs
+  · rintro (rfl | rfl)
+    · rfl
+    · rw [natAbs_valMinAbs_neg]
+
+theorem abs_valMinAbs_eq_abs_valMinAbs :
+    |a.valMinAbs| = |b.valMinAbs| ↔ a = b ∨ a = -b := by
```
Comment (pechersky) [inline Mathlib/Data/ZMod/ValMinAbs.lean:144]: The form of the lemma suggests possibly that some sort of `abs` on `ZMod n` would make sense. It could be `Int.cast a.valMinAbs`. Just a side comment, no action necessary.

Comment (yury-harmonic) [reply Mathlib/Data/ZMod/ValMinAbs.lean:144]: `Int.cast a.valMinAbs = a`. Are you thinking about `Int.cast |a.valMinAbs|`?

File: Mathlib/Data/ZMod/ValMinAbs.lean (hunk 1 above)
Comment (yury-harmonic) [reply Mathlib/Data/ZMod/ValMinAbs.lean:105]: It isn't true for `n = 1`. In this case `(1 : ZMod 1).valMinAbs = 0`. I'm not sure that we need this lemma with an assumption `n \ne 1`.

**Comment by yury-harmonic** [comment]
-awaiting-author

File: Mathlib/Data/ZMod/ValMinAbs.lean (hunk 1 above)
Comment (pechersky) [reply Mathlib/Data/ZMod/ValMinAbs.lean:105]: You can say `[Nontrivial (ZMod n)]`

**Comment by pechersky** [comment]
maintainer delegate

File: Mathlib/Data/ZMod/ValMinAbs.lean (hunk 2 above)
Comment (pechersky) [reply Mathlib/Data/ZMod/ValMinAbs.lean:144]: I think so? Basically sends everything into the `[0, n/2]` interval?

File: Mathlib/Data/ZMod/ValMinAbs.lean (hunk 1 above)
Comment (yury-harmonic) [reply Mathlib/Data/ZMod/ValMinAbs.lean:105]: At which constant should we stop? I suggest we wait until someone needs it.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
